US08232272B2
200 mg (0.40 mM) of 5-[1-ethyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-3,6-dihydro-2H-1,3,4-thiadiazin-2-one and 50 μl (0.6 mM) of 37% hydrochloric acid in 2 ml of methanol are stirred for 16 hours at room temperature. The solvent is evaporated off under vacuum and the residue obtained is taken up in aqueous sodium hydrogen carbonate solution. The resulting mixture is extracted with ethyl acetate and the organic phase is washed with demineralised water and then dried over anhydrous sodium sulfate. The solvent is evaporated off under vacuum to give an oil, which is purified by chromatography on silica, using a dichloromethane/acetone mixture (90/10) as eluent, to give 119 mg of 5-[1-ethyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]-3-(2-hydroxyethyl)-3,6-dihydro-2H-1,3,4-thiadiazin-2-one in the form of an oil that crystallises.

reactant | 5-[1-ethyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 0.40 mM, 200 mg | C(C)N1C(=NC2=C1C=CC(=C2)C2=NN(C(SC2)=O)CCOC2OCCCC2)C2=CC(=CC=C2)OC | C26H30N4O4S
reactant | hydrochloric acid | 0.6 mM, 50 μl | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-[1-ethyl-2-(3-methoxyphenyl)-1H-benzimidazol-5-yl]-3-(2-hydroxyethyl)-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 119 mg, Yield: 72% | C(C)N1C(=NC2=C1C=CC(=C2)C2=NN(C(SC2)=O)CCO)C2=CC(=CC=C2)OC | C21H22N4O3S
